US08859592B2
To a solution of 7-bromo-benzo[1,2,5]thiadiazole-4-carbaldehyde oxime (16.65 g) (Example I4) in N,N-dimethylformamide (150 ml) was added N-chlorosuccinimide (“NCS”) (10.34 g). The reaction mixture stirred at ambient temperature for 16 hours. Water (750 ml) was added to the reaction mixture and the resulting solid was isolated by filtration to obtain 7-bromo-N-hydroxybenzo[1,2,5]thiadiazole-4-carbimidoyl chloride (15.77 g) as a yellow solid which was used without further purification.

reactant | 7-bromo-benzo[1,2,5]thiadiazole-4-carbaldehyde oxime | 16.65 g | BrC1=CC=C(C2=NSN=C21)C=NO | C7H4BrN3OS
reactant | N-chlorosuccinimide | 10.34 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | Water | 750 ml | O | H2O
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 7-bromo-N-hydroxybenzo[1,2,5]thiadiazole-4-carbimidoyl chloride | 15.77 g | BrC1=CC=C(C2=NSN=C21)C(=NO)Cl | C7H3BrClN3OS
